US05360936
9.6 g (100 mmol) of fluorobenzene, 16 g (104 mmol) of methacrylic anhydride and 100 g (5 mol) of HF were reacted at 70° C. for 18 hours. Work-up was carried out analogously to Example A, but no 5-fluoro-2-methylindan-1-one was isolated.

reactant | fluorobenzene | 100 mmol, 9.6 g | FC1=CC=CC=C1 | C6H5F
reactant | methacrylic anhydride | 104 mmol, 16 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
product | 5-fluoro-2-methylindan-1-one | FC=1C=C2CC(C(C2=CC1)=O)C | C10H9FO
